US07482340B2
a) 2-(3-Fluorophenyl)-1-(2-hydroxy-4-methoxyphenyl)ethanone
(3-Fluorophenyl)acetic acid (3.7 g) and 3-methoxyphenol (3.0 g) were dissolved into BF3.Et2O (60 ml, 20 eq) under argon. The mixture was stirred at 60-70° C. until disappearance of the starting materials (9 h) and poured into large volume of ice water. After extraction with ethyl acetate the combined organic layers were washed with water, dried and evaporated. The crude product was purified by column chromatography using CH2Cl2 as an eluant. 1H NMR (400 MHz, d6-DMSO) δ: 12.41 (br s, 1H), 8.02 (d, 1H, J 9.0 Hz), 7.34-7.38 (m, 1H), 7.09-7.13 (m, 3H), 6.56 (dd, 1H, J 9.0, 2.5 Hz), 6.49 (d, 1H, J 2.5 Hz), 4.41 (s, 2H), 3.83 (s, 3H).

reactant | (3-Fluorophenyl)acetic acid | 3.7 g | FC=1C=C(C=CC1)CC(=O)O | C8H7FO2
reactant | 3-methoxyphenol | 3.0 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | BF3.Et2O | 60 ml, 20 eq | B(F)(F)F.CCOCC
product | 2-(3-Fluorophenyl)-1-(2-hydroxy-4-methoxyphenyl)ethanone | FC=1C=C(C=CC1)CC(=O)C1=C(C=C(C=C1)OC)O | C15H13FO3
